US08258182B2
Compound 23: 2-[2,6-dimethyl-4-[3-[4-(methylthio)phenyl]-3-butyloxypropyl]phenoxyl]-2-methylpropanoic acid
This compound was prepared following the general procedure E, using 2-[2,6-dimethyl-4-[3-[4-(methylthio)phenyl]-3-hydroxypropyl]phenoxy]-2-methylpropanoic acid in 50/50 butanol/water at 70° C. for 32 hours;

reactant | 2-[2,6-dimethyl-4-[3-[4-(methylthio)phenyl]-3-hydroxypropyl]phenoxy]-2-methylpropanoic acid | CC1=C(OC(C(=O)O)(C)C)C(=CC(=C1)CCC(O)C1=CC=C(C=C1)SC)C | C22H28O4S
solvent | butanol water | C(CCC)O.O
product | 2-[2,6-dimethyl-4-[3-[4-(methylthio)phenyl]-3-butyloxypropyl]phenoxyl]-2-methylpropanoic acid | CC1=C(OC(C(=O)O)(C)C)C(=CC(=C1)CCC(OCCCC)C1=CC=C(C=C1)SC)C | C26H36O4S
